US07189851B2
Ethyl (9aS)-4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)-2-(4-methylpentyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
To a stirred solution of 4-[(9aS)-3-(ethoxycarbonyl)-2-(4-methylpentyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid (0.100 g, 0.222 mmol) in 1 mL of dichloromethane, EDCI (0.051 g, 0.266 mmol), HOBT (0.036 g, 0.266 mmol) and (R)-(−)-1-aminoindane (0.065 g, 0.444 mmol) were added. The reaction mixture was allowed to stir for ˜3 h. The reaction mixture was concentrated and redissolved in 1 mL of ethyl acetate. The organics were then washed with saturated aqueous NaHCO3 and brine. Filtration and concentration provided a brown oil which was purified by radial chromatography chromatography (ethyl acetate/hexanes (4:1)) to yield 0.013 g (20%) of the desired product as a tan solid: 1H NMR (CDCl3, 400 MHz) δ 7.83–7.76 (d, 2H, J=7.9), 7.44–7.38 (d, 2H, J=7.93), 7.35–7.29 (d, 1H, J=7.76), 7.27–7.17 (m, 3H), 6.52–6.44 (m, 1H), 5.71–5.63 (q, 1H, J=7.41), 4.70–4.63 (dd, 1H, J=10.3, J=6.38), 4.09–3.94 (m, 2H), 3.68–3.56 (m, 1H), 3.35–3.24 (m, 1H), 3.07–2.95 (m, 1H), 2.95–2.76 (m, 3H), 2.74–2.58 (m, 1H), 2.51–2.40 (m, 1H), 2.35–2.19(m, 2H), 1.97–1.84 (m, 1H), 1.83–1.64 (m, 2H), 1.61–1.48 (m, 1H), 1.43–1.31 (m, 1H), 1.30–1.20 (m, 2H), 1.01–0.93 (t, 3H, J=7.09), 0.89–0.81 (d, 6H, J=6.55); low resolution MS (ES+) m/e 566 (MH); RP-HPLC (BDS Hypersil C-18 25 cm×4.6 mm; 10–100% CH3CN in H2O with 0.1% TFA buffer; 30 minutes; 1 mL/min) tr=23.8 min, 99.9% purity.

reactant | 4-[(9aS)-3-(ethoxycarbonyl)-2-(4-methylpentyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid | 0.222 mmol, 0.100 g | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCCC(C)C)C1=CC=C(C(=O)O)C=C1 | C26H30N2O5
reactant | EDCI | 0.266 mmol, 0.051 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.266 mmol, 0.036 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-(−)-1-aminoindane | 0.444 mmol, 0.065 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Ethyl (9aS)-4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)-2-(4-methylpentyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 0.013 g, 20% | [C@H]1(CCC2=CC=CC=C12)NC(=O)C1=CC=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCCC(C)C)C(=O)OCC | C35H39N3O4
